US07691882B2
2-(4-Fluoro-benzyl)-5-((E)-2-nitro-vinyl)-furan
A mixture of 5-(4-fluoro-benzyl)-furan-2-carbaldehyde (1 g, 4.89 mmol) described in Manufacturing Example 208-1-2, nitromethane (1.32 mL, 24.5 mmol), ammonium acetate (754 mg, 9.78 mmol), and acetic acid (10 mL) was stirred for 3 hours at 100° C. This mixture was cooled to room temperature and partitioned into ethyl acetate and water. The organic layer was separated, washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure to obtain the title compound (1.21 g). The title compound was used in the following reaction without any further purification.

reactant | 5-(4-fluoro-benzyl)-furan-2-carbaldehyde | 4.89 mmol, 1 g | FC1=CC=C(CC2=CC=C(O2)C=O)C=C1 | C12H9FO2
reactant | nitromethane | 24.5 mmol, 1.32 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 9.78 mmol, 754 mg | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 2-(4-Fluoro-benzyl)-5-((E)-2-nitro-vinyl)-furan | 1.21 g | FC1=CC=C(CC=2OC(=CC2)\C=C\[N+](=O)[O-])C=C1 | C13H10FNO3
